US05574055
0.5 g of (RS)3-[4-(trans-4-hydroxy-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one was dissolved in 10 ml of methylene chloride and treated at room temperature within 30 minutes with a mixture of 2.2 ml of diethylamino-sulfur trifluoride and 5 ml of methylene chloride. After stirring at room temperature for 2 hours the mixture was poured into 50 ml of ice-water and extracted twice with methylene chloride. The organic phase was washed with sodium chloride solution, sodium hydrogen carbonate solution and again with a sodium chloride solution, dried with magnesium sulfate and concentrated. The residue, 0.6 g of yellow honey, was chromatographed on a 30-fold amount of silica gel with methylene chloride-ethyl acetate (19:1) and yielded 80 mg of (RS)-3-[4-(cis-4-fluoro-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one as a colorless oil. 1H-NMR (CDCl3)ppm: 7.47 (d,2H), 7.24 (d,2H), 4.88 (bd,1H), 4.74 (m,1H), 4.04 (t, 1H), 3.91 (m,1H), 3.64 (d,2H), 3.43 (s,3H), 2.53 (m,1H), 2.16 (m,2H), 1.72 (m,6H).

reactant | (RS)3-[4-(trans-4-hydroxy-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one | 0.5 g | O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)N1C(OC(C1)COC)=O | C17H23NO4
reactant | diethylamino-sulfur trifluoride | 2.2 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (RS)-3-[4-(cis-4-fluoro-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one | 80 mg | F[C@H]1CC[C@H](CC1)C1=CC=C(C=C1)N1C(OC(C1)COC)=O | C17H22FNO3
